US05292719
The starting material 1,1,4,4,5,7-hexamethyl-1,2,3,4-tetrahydronaphthalene is prepared by substantially following the procedures of Fehr et al., U.S. Pat. No. 5,162,588. Specifically, in a 1 liter three-neck flask, equipped with a mechanical stirrer and kept under nitrogen, 150.0 g of methallyl chloride are slowly (2 hrs) added to a mixture of meta-xylene (490.9 g) and H2SO4 (30.0 g), while the temperature is maintained at 20° C. After 3 hrs, the H2SO4 is decanted and the organic phase is washed with, in succession, water, an aqueous solution saturated with NaHCO3, and an aqueous solution saturated with NaCl. The excess of meta-xylene is recovered through distillation, and the residue is distilled. A mixture of two isomers, 1-(2-chloro-1,1-dimethylethyl)-2,4-dimethylbenzene and 1-(2-chloro-1,1-dimethylethyl)-3,5-dimethylbenzene, is obtained.

reactant | methallyl chloride | 150.0 g | C(C(C)=C)Cl | C4H7Cl
reactant | H2SO4 | 30.0 g | OS(=O)(=O)O | H2O4S
reactant | meta-xylene | 490.9 g | C1(=CC(=CC=C1)C)C | C8H10
product | 1,1,4,4,5,7-hexamethyl-1,2,3,4-tetrahydronaphthalene | CC1(CCC(C2=C(C=C(C=C12)C)C)(C)C)C | C16H24
